US06927230B2
To a suspension of 4-cyanobenzoic acid (353 mg, 2.4 mmol) in dichloromethane (3 mL), was added oxalyl chloride (0.209 mL, 2.4 mmol). And then 10 micro-L of dimethylformamide was added to the mixture. The mixture was stirred for 1 hour and the solvent was removed under reduced pressure. The residue was azeotroped with dichloromethane. To the residue, was added 3 mL of dioxane. Then a solution of 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide (466 mg, 2 mmol) and diisopropylethylamine (0.418 mL, 2.4 mmol) in 4.5 mL of dioxane was added to the mixture and the mixture was refluxed with stirring for 3.5 hours. The solvent was removed under reduced pressure, and dichloromethane and 0.1 N hydrochloric acid were added to the residue. The organic layer was separated, washed with 0.1 N hydrochloric acid, water, and brine, dried over magnesium sulfate. The crude product was purified by silica gel column chromatography (20:1-10:1 toluene-ethyl acetate). The desired product was rinsed with diisopropyl ether and dried in vacuo to give 4-[1-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]benzonitrile (88 mg, 12.8% yield).

reactant | 4-cyanobenzoic acid | 2.4 mmol, 353 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | oxalyl chloride | 2.4 mmol, 0.209 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide | 2 mmol, 466 mg | FC(C(N)=NNC1=CC=C(C=C1)OC)(F)F | C9H10F3N3O
reactant | diisopropylethylamine | 2.4 mmol, 0.418 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[1-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]benzonitrile | 88 mg, 12.8% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C#N)C=C1)C(F)(F)F | C17H11F3N4O
